US04845293
Preparation of 2-(β,γ-dihydroxypropyl)amino-6-chloronitrobenzene
0.2 mole (38.4 g) of 2,6-dichloronitrobenzene and 0.6 mole (54.6 g) of 3-aminopropane-1,2-diol in 200 ml of 1-methyl-2-pyrrolidone are heated to 80° C. The reaction mixture is diluted with ice. The product expected precipitates. After recrystallizing from isopropanol, it melts at 126° C.

reactant | 2,6-dichloronitrobenzene | 0.2 mole, 38.4 g | ClC1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 3-aminopropane-1,2-diol | 0.6 mole, 54.6 g | NCC(CO)O | C3H9NO2
solvent | 1-methyl-2-pyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(β,γ-dihydroxypropyl)amino-6-chloronitrobenzene | OC(CNC1=C(C(=CC=C1)Cl)[N+](=O)[O-])CO | C9H11ClN2O4
